Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Trauma:  fall
 
Major Surgical or Invasive Procedure:
 
none 

 
History of Present Illness:
Mr. ___ is a ___ year oid gentleman s/p mechanical fall at 
nursing facility
following which he presented to ___ with CT 
Head/Cspine/Chest demonstrating left small to moderate
hemothorax. He was transferred to ___ for further management.

On interview at ___ Mr. ___ is nonverbal and AOx0 which
per report is his baseline. He does not appear to be in
respiratory distress and has been HDS and saturating
appropriately on room air
 
Past Medical History:
dementia, gastritis, colitis, GERD, PVD 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION:  ___
 
Temp: 98.3 HR: 63 BP: 149/90 Resp: 24 O(2)Sat: 97 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
No C-spine tenderness
Chest: Clear to auscultation, No chest wall tenderness Or
crepitus
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema. No spinal
tenderness
Skin: No rash, Warm and dry
Neuro: The patient is alert. No focal deficits
___: No petechiae

Physical examination upon discharge:  118/16:

vital signs:  98.1, hr=79. bp= 136/78. rr=16. 98% room air

General:  sitting in chair, eyes closed, skin warm and dry

CV:  ns1, s2, no murmurs
LUNGS:  diminished BS bases bil., no wheezing
ABDOMEN: hypoactive BS, soft, non-tender
EXT:  no calf pain, no pedal edema bil
SKIN: abrasion left forehead, bruise left shoulder, soft, 
non-tender
NEURO:  answers simple questions, opens eye to name/stimuli

 
___ Results:
___ 05:50AM BLOOD WBC-6.8 RBC-4.09*# Hgb-12.8*# Hct-37.5* 
MCV-92 MCH-31.3 MCHC-34.1 RDW-12.3 RDWSD-41.0 Plt ___
___ 02:33AM BLOOD WBC-6.7 RBC-3.20* Hgb-9.7* Hct-30.4* 
MCV-95 MCH-30.3 MCHC-31.9* RDW-12.4 RDWSD-43.5 Plt ___
___ 05:50AM BLOOD Plt ___
___ 02:33AM BLOOD ___ PTT-26.5 ___
___ 05:50AM BLOOD Glucose-81 UreaN-16 Creat-1.0 Na-137 
K-4.1 Cl-99 HCO3-24 AnGap-18
___ 02:33AM BLOOD Glucose-94 UreaN-17 Creat-1.0 Na-138 
K-4.2 Cl-102 HCO3-23 AnGap-17
___ 05:50AM BLOOD Calcium-9.1 Phos-4.0 Mg-1.9

___:  chest x-ray:

Small to moderate left pneumothorax without evidence of tension. 

  
Small pleural effusions better assessed on CT.

___:  Ct abd. and pelvis:  

1. Partially visualized left-sided pneumothorax. 
2. Bilateral simple pleural effusions, left greater than right. 
3. Likely chronic left tenth through twelfth rib fractures. 
4. Severe atherosclerotic disease of the abdominal aorta with 
calcified and non-calcified plaque, with a focal area of likely 
chronic dissection in the distal abdominal aorta. 
5. 1.5 cm hypo-density in the pancreatic tail can be better 
characterized with non-emergent MRI. 

___:  chest x-ray:

Stable left pneumothorax and bilateral pleural effusions

___:  CT of the chest:  

Persistent left hydro-pneumothorax with interval improvement in 
the 
anterior pneumothorax at the left base. The apical component is 
difficult to assess for interval change but likely unchanged 
given appearance on 
radiographs. Layering left pleural effusion is unchanged. 
  
2. 4mm right apical nodule. Given background emphysema, 
follow-up CT chest 
is recommended in 12 months. 
  
3. Re-demonstration of a pancreatic tail hypo-density for which 
a non-emergent MRCP is recommended. 

  

 
Brief Hospital Course:
 ___ year old male presented to an outside hospital after a 
mechanical fall resulting in a left sided hydro-pneumothorax. 
His respiratory status was stable. He was transferred here for 
management.   Head and cervical spine imaging showed no 
injuries.  Upon admission, the patient was made NPO, given 
intravenous fluids and underwent radiographic imaging.  A chest 
x-ray was done which showed a small to moderate left 
pneumothorax without evidence of tension.  The patient also 
underwent a cat scan of the abdomen and pelvis which showed a 
partially visualized left-sided pneumothorax and bilateral 
simple pleural effusions.  Rib fractures on the left tenth 
through twelve were identified but thought likely chronic in 
nature. An incidental finding of a 1.5 cm hypo-density in the 
pancreatic tail was reported.  Non-emergent MRI imaging was 
recommended. In addition to this finding, the patient was 
reported to have a 4mm pulmonary nodule at the right lung apex. 
Repeat CT imaging was recommended in ___ year. 
  
During the patient's hospitalization, his vital signs remained 
stable and he was afebrile.  He was eating with assistance and 
incontinent of urine. He was ambulatory with supervision.  In 
preparation for discharge, he was evaluated by physical therapy 
who made recommendations for 1:1 supervision upon discharge.  A 
repeat cat scan of the chest was done to further evaluate the 
status of the hydo-pneumothorax.  It showed a slight decrease in 
the size of the hydro-pneumothorax. His respiratory status 
remained stable with an oxygen saturation of 96% on room air.   

The patient was cleared for discharge to his facility with 1:1 
supervision on HD #4.  A follow-up appointment was made in the 
Acute care clinic and with his primary care provider.  The 
family was updated on the findings on recent imaging.  
 
Medications on Admission:
Delzicol 400 TID  
 Pravachol 20 QHS  
 ASA81 QD  
 Protonix 40 QD  
 Lactobacillus  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN constipaton  
4.  Aspirin 81 mg PO DAILY  
5.  Mesalamine ___ 400 mg PO TID  
6.  Pantoprazole 40 mg PO Q24H  
7.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Trauma:  Fall:  Left small to moderate hemo-pneumothorax

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
  
Mr. ___ was admitted to the hospital after a fall in which 
he sustained a hemo-pneumothorax. During his hospitalization, 
his respiratory status was closely monitored.  He did require 
chest tube placement.  He was evaluated by physical therapy and 
cleared for discharge to his facility with 1:1 supervision.  You 
are being discharged with the following instructions: 

 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

   
 
Followup Instructions:
___